US04839155
A stirred solution of 1,3-diiodobenzene (5.45 g, 16.5 mmol) in dry tetrahydrofuran (25 ml) at -78° C. under nitrogen was treated with a solution of n-butyl lithium in hexane (1.6M; 10.3 ml, 16.5 mmol). After 5 min, a solution of 1-[4-(2-chloroethoxy)-phenyl]-2-phenyl-1-butene (5.0 g, 16.5 mmol) in dry tetra-hydrofuran (15 ml) was added and the mixture allowed to warm to room temperature. After 20 h, the mixture was poured into water (100 ml) and the products extracted with ether (2×50 ml). The extracts were concentrated under vacuum and the residue dissolved in ethanol (80 ml). Concentrated hydrochloric acid (30 ml) was added and the mixture heated under reflux. After 4 h, the mixture was cooled and partitioned between water (100 ml) and ether (2×60 ml). The ether layers were dried with sodium sulphate, concentrated, and the residue chromatographed on silica gel (Merck 15111, 60 g). Elution with 1:20 l dichloromethane-light petroleum (b.p. 60°-80° C.) gave 1-[4-(chloroethoxy) phenyl]-1-(3-iodophenyl)-2-phenyl-1-butene as a ca. 1.5:1 mixture of E (trans) and Z (cis) isomers (determined by n.m.r. spectroscopy) and as an oil (6.46 g, 80% yield). This mixture (3.63 g) was dissolved in a solution of methylamine (30% w/v) in ethanol, and the resulting solution heated in a sealed vessel at 100° C. for 4 h, then cooled and concentrated to dryness. The residue was partitioned between aqueous sodium hydroxide (100 ml) and ether (100 ml). The ether solution was washed with water (50 ml), dried with sodium sulphate and the residual oil dissolved in cyclohexane (10 ml). Eventually 3-iodotamoxifen crystallised (1.51 g, 41%), m.p. 55°-57° C. NMR: δH (CDCl3, 250 MHz) 0.91 (3H, t, J 7.4 Hz, CH3CH2), 2.29 (3H, s, NMe2), 2.43 (2H, q, J 7.4 Hz, CH3CH2), 2.65 (2H, t, J 5.8 Hz, OCH2CH2N), 3.93 (2H, t, J 5.8. Hz, OCH2CH2N), 6.57 (2H, d, J 8.8 Hz, ArH ortho to side chain), 6.74 (2H, d, J 8.8 Hz, ArH meta to side chain), 7.05-7.26 (7H, m, ArH), 7.58- 7.63 (2H, m, ArH ortho to I).

reactant | 1,3-diiodobenzene | 16.5 mmol, 5.45 g | IC1=CC(=CC=C1)I | C6H4I2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 16.5 mmol, 1.6M, 10.3 ml | CCCCCC | C6H14
reactant | 1-[4-(2-chloroethoxy)-phenyl]-2-phenyl-1-butene | 16.5 mmol, 5.0 g | ClCCOC1=CC=C(C=C1)C=C(CC)C1=CC=CC=C1 | C18H19ClO
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetra-hydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 1-[4-(chloroethoxy) phenyl]-1-(3-iodophenyl)-2-phenyl-1-butene | ClCCOC1=CC=C(C=C1)C(=C(CC)C1=CC=CC=C1)C1=CC(=CC=C1)I | C24H22ClIO
